US04186135
13 g of 7-ethylsulfonyl-1,4-benzodioxane-5-carboxylic acid, 300 ml of tetrahydrofuran and 13 g of carbonyldiimidazole were introduced into a balloon flask provided with an agitator, a thermometer and a condenser. The mixture was agitated at ambient temperature and then 9.5 g of 1-ethyl-2-aminomethylpyrrolidine was added. Agitation was maintained at ambient temperature and then the solvent was evaporated under vacuum. The crystals produced were washed with water and then dried. 14 g of N-(1-ethyl-2-pyrrolidylmethyl)-7-ethylsulfonyl-1,4-benzodioxane-5-carboxamide was produced (M.P.: 118°-119° C.; yield: 73.8%)

reactant | 7-ethylsulfonyl-1,4-benzodioxane-5-carboxylic acid | 13 g | C(C)S(=O)(=O)C=1C=C(C2=C(OCCO2)C1)C(=O)O | C11H12O6S
reactant | carbonyldiimidazole | 13 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-ethyl-2-aminomethylpyrrolidine | 9.5 g | C(C)N1C(CCC1)CN | C7H16N2
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | N-(1-ethyl-2-pyrrolidylmethyl)-7-ethylsulfonyl-1,4-benzodioxane-5-carboxamide | 14 g, yield: 73.8% | C(C)N1C(CCC1)CNC(=O)C1=CC(=CC=2OCCOC21)S(=O)(=O)CC | C18H26N2O5S
